US03941811
A solution of 75 g of sodium silicate pentahydrate in 1500 ml of water was introduced with stirring in the absence of air and light into a solution of 100 g of silver nitrate in 500 ml of distilled water and after stirring for 30 minutes, the mixture was allowed to stand for an hour. The precipitate formed was recovered by vacuum filtration and was washed with water and dried in the presence of a dehydrating agent to obtain 80 g of silver silicate (Ag2SiO3). Analysis showed a silver content of 72.6% (theoretical -73.93) and a SiO2 content of 20.3% (theoretical 20.6).

reactant | sodium silicate pentahydrate | 75 g | O.O.O.O.O.[Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | silver nitrate | 100 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 1500 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | silver silicate | 80 g | [Si]([O-])([O-])([O-])[O-].[Ag+].[Ag+].[Ag+].[Ag+] | InChI=1S/4Ag.O4Si/c;;;;1-5(2,3)4/q4*+1;-4
